US08309577B2
N-(6-Chlorothiazolo[4,5-b]pyridin-2-yl)benzamide (364 mg, 1.256 mmol) in H2SO4 (4 ml, 75 mmol) was heated to 120° C. for 30 minutes, cooled to ambient temperature, basified with 10N NaOH and the resultant solids were collected by filtration to afford 6-chlorothiazolo[4,5-b]pyridin-2-amine (148 mg, 0.797 mmol, 63.5% yield) 1H NMR (500 MHz, DMSO-d6) δ ppm 8.19-8.24 (m, 2H) 8.09 (br. s., 2H).

reactant | N-(6-Chlorothiazolo[4,5-b]pyridin-2-yl)benzamide | 1.256 mmol, 364 mg | ClC=1C=C2C(=NC1)N=C(S2)NC(C2=CC=CC=C2)=O | C13H8ClN3OS
reactant | H2SO4 | 75 mmol, 4 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | 10N | [OH-].[Na+]
product | 6-chlorothiazolo[4,5-b]pyridin-2-amine | 0.797 mmol, 148 mg, 63.5% yield | ClC=1C=C2C(=NC1)N=C(S2)N | C6H4ClN3S
